US05210092
A mixture of ethyl 4-amino-3-nitrobenzoate (49.5 g) and N,N-dimethylaniline (90 ml) was heated at 110° C. under nitrogen atmosphere. To the solution was added valeryl chloride (29 ml) and the mixture was stirred at 110° C. for 1.5 hours. After being cooled to room temperature, 1N hydrochloric acid was added until pH 2~3 to the reaction mixture. The aqueous solution was extracted with ethyl acetate. The organic layer was separated and washed successively with water and brine. The solution was dried over magnesium sulfate and the solvent was evaporated in vacuo. The residue was purified with silica gel column chromatography (ethyl acetate : n-hexane=1:5) to give ethyl 3-nitro-4-valerylaminobenzoate (67.5 g).

reactant | ethyl 4-amino-3-nitrobenzoate | 49.5 g | NC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C9H10N2O4
reactant | valeryl chloride | 29 ml | C(CCCC)(=O)Cl | C5H9ClO
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylaniline | 90 ml | CN(C1=CC=CC=C1)C | C8H11N
product | ethyl 3-nitro-4-valerylaminobenzoate | 67.5 g | [N+](=O)([O-])C=1C=C(C(=O)OCC)C=CC1NC(CCCC)=O | C14H18N2O5
